US04153710
Treating in an analogous way N-[4-(2-aminoethyl)-benzenesulphonyl]-N'-n-butylurea of the melting point at 193°-195° C. with 3-methylpyrazole-1-carboxylic acid chloride, N-{4-[2-(3-methylpyrazole-1-carbonamide)-ethyl]-benzenesulphonyl}-N'-n-butylurea of the melting point at 145°-147° C. is obtained whereas from N-[4-(2-aminoethyl)-benzenesulphonyl]-N'-n-propylurea of the melting point at 194°-196° C., N-{4-[2-(3-methylpyrazole-1-carbonamide)-ethyl]-benzenesulphonyl}-N'-n-propylurea of the melting point at 146°-148° C. is obtained.

reactant | N-[4-(2-aminoethyl)-benzenesulphonyl]-N'-n-butylurea | NCCC1=CC=C(C=C1)S(=O)(=O)NC(=O)NCCCC | C13H21N3O3S
reactant | 3-methylpyrazole-1-carboxylic acid chloride | CC1=NN(C=C1)C(=O)Cl | C5H5ClN2O
product | N-[4-(2-aminoethyl)-benzenesulphonyl]-N'-n-propylurea | NCCC1=CC=C(C=C1)S(=O)(=O)NC(=O)NCCC | C12H19N3O3S
